US07888508B2
Preparation of 1-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile
To a solution of 5.85 g (35.8 mmol) of 5-amino-1-tert-butyl-1H-pyrrole-3-carbonitrile, being prepared as disclosed in Org. Proc. Res. Dev., 7(2), 209-213, 2003, in 120 mL of n-propanol, it was added sodium nitromalonaldehyde (6.02 g, 43.0 mmol) portionwise under stirring at room temperature. The resulting mixture was treated dropwise with 37% hydrochloric acid (4.6 mL, 55.2 mmol) and heated at 100° C. for 2 hours. The reaction mass was concentrated under vacuum to ⅓ of the initial volume and kept at 4° C. for 18 hours. The precipitate was filtered off, washed thoroughly with 15% aqueous ethanol (35 mL), water (5 mL) and finally dried to afford 7.14 g of the title compound as a light brown solid.

reactant | 5-amino-1-tert-butyl-1H-pyrrole-3-carbonitrile | 35.8 mmol, 5.85 g | NC1=CC(=CN1C(C)(C)C)C#N | C9H13N3
reactant | sodium nitromalonaldehyde | 43.0 mmol, 6.02 g | [N+](=O)([O-])C(C=O)C=O.[Na]
reactant | hydrochloric acid | 55.2 mmol, 4.6 mL | Cl | ClH
solvent | n-propanol | 120 mL | C(CC)O | C3H8O
product | 1-tert-butyl-5-nitro-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 7.14 g, Yield=81.5% | C(C)(C)(C)N1C=C(C=2C1=NC=C(C2)[N+](=O)[O-])C#N | C12H12N4O2
